US09284308B2
N-Methoxy-N-methylpyrimidine-2-carboxamide
Sodium pyrimidine-2-carboxylate (4.00 g, 27.4 mmol), imidazole hydrochloride (3.15 g, 30.1 mmol), and 1-carbonyldiimidazole (5.26 g, 31.5 mmol) was slurried in acetonitrile (30 mL) at room temperature under an N2 atmosphere. The mixture was then warmed to 52° C. over 30 minutes. Evolution of carbon dioxide was seen when the reaction mixture reached approximately 50° C. The mixture was then stirred at 52° C. for approximately 2 hours. The reaction was cooled to room temperature, then N,O-dimethylhydroxylamine hydrochloride (3.54 g, 35.6 mmol) was added slowly, portion wise over approximately 15 minutes and a mild exotherm was seen after each addition. The contents were stirred at room temperature overnight. To the reaction mixture was then added deionized water (25 mL) and dichloromethane (25 mL). 6 M aqueous hydrochloric acid was added dropwise to acidify the aqueous layer to approximately pH 1. The organic phase was then separated and the aqueous phase was extracted twice with dichloromethane. The combined organics were washed with 2 M aqueous hydrochloric acid and the layers separated. The acidic layer was extracted twice with dichloromethane and the organics combined. The organics were washed with a saturated, aqueous NaHCO3 solution, then dried over MgSO4, filtered and the solvent was removed by distillation under reduced pressure to provide the title compound.

reactant | Sodium pyrimidine-2-carboxylate | 27.4 mmol, 4.00 g | N1=C(N=CC=C1)C(=O)[O-].[Na+]
reactant | imidazole hydrochloride | 30.1 mmol, 3.15 g | Cl.N1C=NC=C1
reactant | carbon dioxide | C(=O)=O | CO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 35.6 mmol, 3.54 g | Cl.CNOC
reactant | hydrochloric acid | 6 M | Cl | ClH
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | water | 25 mL | O | H2O
product | N-Methoxy-N-methylpyrimidine-2-carboxamide | CON(C(=O)C1=NC=CC=N1)C | C7H9N3O2
